US03939229
A mixture of 0.2 g. of cobalt octoate and 70 g. of trioctyl phosphite is warmed in vacuo (10 mm.) at 30°C while oxygen is added over a period of six hours. The mixture is stirred throughout this period by means of a magnetic stirrer. The product is washed with an aqueous alkaline solution to remove the cobalt catalyst, having a 91% yield of trioctyl phosphate.

reactant | trioctyl phosphite | P(OCCCCCCCC)(OCCCCCCCC)OCCCCCCCC | C24H51O3P
reactant | oxygen | O=O | O2
catalyst | cobalt octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Co+2]
product | trioctyl phosphate | 91% yield | P(=O)(OCCCCCCCC)(OCCCCCCCC)OCCCCCCCC | C24H51O4P
